US07402684B2
3-[(S)-2-(4-Benzyl-phenoxymethyl)-pyrrolidin-1-yl]-propionic acid methyl ester:
(S)-2-(4-Benzyl-phenoxymethyl)-pyrrolidine (200 mg, 0.658 mmol) was taken into DMF (2 mL), and methyl 3-bromopropionate (121 mg, 0.724 mmol) was added, followed by potassium carbonate (182 mg, 1.317 mmol). The mixture was heated to 60° C. and left to react overnight. The mixture was diluted with water, and extracted with ethyl acetate (3×). The combined ethyl acetate layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to dryness. The compound was then purified by flash chromatography (eluted with 1% methanol in dichloromethane with a 30:1 silica ratio) to obtain the title product (32.6 mg, 0.092 mmol, 14% yield); LCMS; m/z 353.47. found 354.3 (M+1). 1H NMR (400 MHz, CDCL3) δ 3.92 (s, 1H), 1.59 (s, 2H), 1.76-1.78 (m, 1H), 1.93-2.00 (m, 1H), 2.28-2.30 (m, 1H), 2.52-2.55 (m, 2H), 2.67-2.74 (m, 1H), 2.84-2.91 (m, 1H), 3.11-3.15 (m, 1H), 3.20-3.27 (m, 1H), 3.66 (s, 3H), 3.73-3.77 (m, 1H), 3.91-3.92 (m, 2H), 6.81-6.84 (m, 2H), 7.07-7.09 (m, 2H), 7.16-7.29 (m, 5H).

reactant | (S)-2-(4-Benzyl-phenoxymethyl)-pyrrolidine | 0.658 mmol, 200 mg | C(C1=CC=CC=C1)C1=CC=C(OC[C@H]2NCCC2)C=C1 | C18H21NO
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | methyl 3-bromopropionate | 0.724 mmol, 121 mg | BrCCC(=O)OC | C4H7BrO2
reactant | potassium carbonate | 1.317 mmol, 182 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 3-[(S)-2-(4-Benzyl-phenoxymethyl)-pyrrolidin-1-yl]-propionic acid methyl ester | 0.092 mmol, 32.6 mg, 14% yield | COC(CCN1[C@@H](CCC1)COC1=CC=C(C=C1)CC1=CC=CC=C1)=O | C22H27NO3
